US04857530
2,2,2-Trifluoro-1-[4-(2-propynylamino)phenyl]ethanone
To a solution of 8.64 g (45 mmol) of 2,2,2-trifluoro-1-(4-fluorophenyl)ethanone (Journal of Organic Chemistry, Vol. 32, pp. 1311-1318 (1967)) and 7.53 ml (54 mmol) of triethylamine in 150 ml of acetonitrile, cooled in an ice-bath, is added 31.13 ml (0.45 mol) of 2-propynylamine. The ice-bath is removed and the solution is heated under reflux for eighteen hours. The reaction solution is cooled and concentrated to give a solid, which is partitioned between ethyl acetate and water. The ethyl acetate layer is separated, dried (magnesium sulfate), and concentrated to give 10.23 g of a red-brown oil. This is applied to a column of 250 g of flash silica gel packed in n-heptane-dichloromethane (2:1). Elution with the same solvent gives 4.05 g (39.6%) of the product as a fluffy white solid; mp 96°-98° C.

reactant | 2,2,2-trifluoro-1-(4-fluorophenyl)ethanone | 45 mmol, 8.64 g | FC(C(=O)C1=CC=C(C=C1)F)(F)F | C8H4F4O
reactant | triethylamine | 54 mmol, 7.53 ml | C(C)N(CC)CC | C6H15N
reactant | 2-propynylamine | 0.45 mol, 31.13 ml | C(C#C)N | C3H5N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2,2,2-Trifluoro-1-[4-(2-propynylamino)phenyl]ethanone | 10.23 g | FC(C(=O)C1=CC=C(C=C1)NCC#C)(F)F | C11H8F3NO
